US07589123B2
(E)-1-(4-tert-butyldimethylsilyloxy-3-methoxyphenyl)-4,4,6,6-tetramethylhept-1-ene-3,5-dione (266 mg, 0.635 mmol) was dissolved in anhydrous THF (10 ml) and stirred at room temperature under a nitrogen atmosphere. TBAF (0.22 ml, 0.76 mmol) was added (yellow/green solution goes deep red colour) and the mixture was stirred overnight at room temperature. After this time the solvents were removed under vacuum to leave a residue which was purified by column chromatography on silica using dichloromethane/diethyl ether (1:0 to 10:1) to give (E)-1-(4-hydroxy-3-methoxyphenyl)-4,4,6,6-tetramethylhept-1-ene-3,5-dione (177 mg, 92%) as a dark yellow oil: 1H NMR (400 MHz, CDCl3) δ 1.19 (9H, s, C(CH3)3), 1.42 (6H, s, 2×C(CH3)), 3.93 (3H, s, OCH3), 6.03 (1H, brs, phenol OH), 6.54 (1H, d, J=15.6 Hz, vinyl CH), 6.92 (1H, d, J=8.0 Hz, ArH), 6.99 (1H, d, J=2.0 Hz, ArH), 7.12 (1H, dd, J=8.0, 2.0 Hz, ArH), 7.66 (1H, d, J=15.6 Hz, vinyl CH) ppm.

reactant | (E)-1-(4-tert-butyldimethylsilyloxy-3-methoxyphenyl)-4,4,6,6-tetramethylhept-1-ene-3,5-dione | 0.635 mmol, 266 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)\C=C\C(C(C(C(C)(C)C)=O)(C)C)=O)OC | C24H38O4Si
reactant | TBAF | 0.76 mmol, 0.22 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (E)-1-(4-hydroxy-3-methoxyphenyl)-4,4,6,6-tetramethylhept-1-ene-3,5-dione | 177 mg, 92% | OC1=C(C=C(C=C1)\C=C\C(C(C(C(C)(C)C)=O)(C)C)=O)OC | C18H24O4
